US08865726B2
To a suspension of (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide (0.040 g, 0.0925 mmol) in dioxane (4 mL) was added cyanic bromide (0.0216 g, 0.204 mmol) followed by a solution of NaHCO3 (0.00933 g, 0.111 mmol) in water (0.9 mL). The resulting mixture was stirred at ambient temperature overnight, then diluted with EtOAc. The organic layer was washed with brine and water, dried (phase separator silicone treated filter paper) and concentrated. The crude material was purified on silica gel (2-5% MeOH in DCM) to provide (S)-3-(3-(4-(5-amino-1,3,4-oxadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one (0.0066 g, 16% yield). LCMS (APCI+) m/z 458 [M+H]+.

reactant | (S)-4-(5-(4-(4-fluorophenyl)-2-oxooxazolidin-3-yl)pyrazolo[1,5-a]pyrimidin-3-yl)benzohydrazide | 0.0925 mmol, 0.040 g | FC1=CC=C(C=C1)[C@@H]1N(C(OC1)=O)C1=NC=2N(C=C1)N=CC2C2=CC=C(C(=O)NN)C=C2 | C22H17FN6O3
reactant | cyanic bromide | 0.204 mmol, 0.0216 g | N#CBr | CBrN
reactant | NaHCO3 | 0.111 mmol, 0.00933 g | C(=O)(O)[O-].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.9 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-3-(3-(4-(5-amino-1,3,4-oxadiazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(4-fluorophenyl)oxazolidin-2-one | 0.0066 g, 16% yield | NC1=NN=C(O1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=C(C=C2)F)=O | C23H16FN7O3
